US08420816B2
(R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methyl-N-(2-(methylsulfonyl)ethyl)butanamide
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (15 mg, 0.051 mmol) under nitrogen. DMF (0.5 mL), 2-(methylsulfonyl)ethanamine hydrochloride (8.2 mg, 0.051 mmol), HOBt (11.83 mg, 0.077 mmol), EDC (14.81 mg, 0.077 mmol) and N,N-dimethylpyridin-4-amine (9.44 mg, 0.077 mmol) were added and the solution was stirred at 25° C. for 4 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 20-50%). The fractions were collected and lyophilized to afford the title compound as a white solid (8 mg, 39.2%). 1H NMR (400 MHz, CD3OD) δ 0.91 (d, J=6.82 Hz, 3H) 1.05 (d, J=6.32 Hz, 3 H) 2.50 (dq, J=17.94, 6.57 Hz, 1 H) 2.92 (s, 3 H) 3.22-3.28 (m, 1 H) 3.33-3.38 (m, 1 H) 3.61 (dt, J=14.40, 6.57 Hz, 1 H) 3.73 (dt, J=14.40, 6.57 Hz, 1 H) 4.94-5.13 (m, 2 H) 5.19-5.40 (m, 1 H) 7.85 (s, 1 H) 8.17 (d, J=3.28 Hz, 1 H). [M+H] calc'd for C17H21FN4O4S, 398; found, 398.3.

reactant | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.051 mmol, 15 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
reactant | 2-(methylsulfonyl)ethanamine hydrochloride | 0.051 mmol, 8.2 mg | Cl.CS(=O)(=O)CCN
reactant | HOBt | 0.077 mmol, 11.83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.077 mmol, 14.81 mg
catalyst | N,N-dimethylpyridin-4-amine | 0.077 mmol, 9.44 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)-2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methyl-N-(2-(methylsulfonyl)ethyl)butanamide | 8 mg, 39.2% | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)NCCS(=O)(=O)C)C(C)C)=O)=CN2 | C17H21FN4O4S
